US07956183B2
3,7-Dimethylamino-10-acetyl-phenothiazine
The 3,7-dimethylamino-10H-phenothiazine obtained in Synthesis 1 was placed in a 250 cm3 round bottom flask and acetic anhydride ((H3CCO)2O, 40 cm3) and pyridine (10 cm3) were added, and the resulting solution was heated at 120° C. for 18 hours with stirring. The reaction mixture was cooled to room temperature and then poured carefully into ice-water while stirring to give a light brown solid, which was filtered using a standard Buchner funnel apparatus with a water aspirator, washed once with water (100 cm3), and dried in an oven at 60° C. for 3 hours to yield the title compound (MW 327.45, 4.63 g, 14.1 mmol, yield 53%), which was recrystallised from ethanol by dissolving it in hot ethanol (100 cm3), adding activated charcoal (1 g), filtering to remove the charcoal, cooling the solution to 5° C. using an ice-water bath so that a precipitate formed (colourless crystals), and filtering using a standard Buchner filter with a water aspirator in order to collect the crystals. The crystals where then dried in an oven at 60° C. for 3 hours.

reactant | 3,7-dimethylamino-10H-phenothiazine | CNC=1C=CC=2NC3=CC=C(C=C3SC2C1)NC | C14H15N3S
reactant | acetic anhydride | 40 cm3 | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 10 cm3 | N1=CC=CC=C1 | C5H5N
product | 3,7-Dimethylamino-10-acetyl-phenothiazine | 14.1 mmol, 4.63 g, yield 53% | CNC=1C=CC=2N(C3=CC=C(C=C3SC2C1)NC)C(C)=O | C16H17N3OS
